US08247413B2
N-[3-fluoro-4-(trifluoromethyl)benzyl]-2-(5-isoquinolinyl)butanamide
The title compound was prepared using the procedure described in Example 222B using 3-fluoro-4-(trifluoromethyl)benzylamine and 2-(5-isoquinolinyl)butanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 391 (M+H)+; MS (ESI−) m/z 389 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 0.91 (t, J 7.5, 3H), 1.81 (m, 1H), 2.17 (m, 1H), 4.35 (m, 2H), 7.17 (m, 2H), 7.69 (t, J 7.8, 1H), 7.86 (t, J 7.8, 1H), 8.04 (d, J 7.1, 1H), 8.23 (d, J 8.1, 1H), 8.65 (d, J 6.8, 1H), 8.83 (t, J 6.8, 1H), 9.60 (s, 1H); Anal. Calcd for C21H18F4N2O+1HCl: C, 54.77; H, 3.80; N, 5.55. Found: C, 54.62; H, 3.57; N, 5.50.

reactant | 3-fluoro-4-(trifluoromethyl)benzylamine | FC=1C=C(CN)C=CC1C(F)(F)F | C8H7F4N
reactant | 2-(5-isoquinolinyl)butanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)CC | C13H13NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-[3-fluoro-4-(trifluoromethyl)benzyl]-2-(5-isoquinolinyl)butanamide | FC=1C=C(CNC(C(CC)C2=C3C=CN=CC3=CC=C2)=O)C=CC1C(F)(F)F | C21H18F4N2O
